US07037932B2
d) 7-Fluoro-4-methoxy-1-benzothiophene
A mixture of 7-fluoro-4-methoxy-1-benzothiophene-2-carboxylic acid (61.4 g, 271 mmol) and copper powder (22.4 g, 352 mmol) in quinoline (500 mL) was heated at 190° C. for 1 h. Cooled to ambient and poured onto aqueous hydrochloric acid (2 N, 750 mL). Stirred with ethyl acetate (500 mL) for 15 minutes. Filtered through Celite, washing with ethyl acetate. The aqueous layer was extracted into ethyl acetate and the combined organic layers were washed with aqueous hydrochloric acid (2 N, 500 mL), water (500 mL), brine (500 mL), dried over MgSO4 and evaporated in vacuo. Purified by column chromatography, eluting silica gel with iso-hexane/diethyl ether 0–5% to give the product as a brown oil which crystallised to give the title compound (41.3 g, 84%); δH (300 MHz, CDCl3) 7.51 (1H, m, ArH), 7.38 (1H, d, ArH), 6.98 (1H, t, ArH), 6.65 (1H, dd, ArH) and 3.92 (3H, s, OCH3).

reactant | 7-fluoro-4-methoxy-1-benzothiophene-2-carboxylic acid | 271 mmol, 61.4 g | FC1=CC=C(C=2C=C(SC21)C(=O)O)OC | C10H7FO3S
reactant | hydrochloric acid | 2 N, 750 mL | Cl | ClH
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | quinoline | 500 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 352 mmol, 22.4 g | [Cu] | Cu
product | 7-Fluoro-4-methoxy-1-benzothiophene | FC1=CC=C(C=2C=CSC21)OC | C9H7FOS
